US09428465B2
Step 2. Preparation of 1-benzhydryl-5-phenyl-pyrimidine-2,4-dione
1-Benzhydryl-5-iodo-pyrimidine-2,4-dione (0.06 g, 0.15 mmol) was suspended in a 1:1 toluene/ethanol mixture (1,6 Phenylboronic acid (0.03 g, 0.22 mmol) was added followed by 2M aqueous solution of sodium carbonate (0.082 mL, 0.16 mmol). The resulting suspension was degassed under nitrogen atmosphere for 10 min, then tetrakis(triphenylphosphine) palladium(0) (0.017 g, 0.015 mmol) was added. The reaction was heated under microwave irradiation at 100° C. for 30 min. The reaction mixture was diluted with EtOAc and water was added. The two phases were separated and the aqueous layer was extracted with EtOAc (3×15 mL). The combined organic phases were dried over Na2SO4 and the solvent was removed under reduced pressure. The crude was purified by column chromatography using a Teledyne ISCO apparatus (cyclohexane:EtOAc 60:40) to afford the title compound (0.03 g, 62%) as pale yellow solid. 1H NMR (400 MHz, CDCl3): δ 7.13 (s, 1H), 7.20-7.24 (m, 5H), 7.25 (s, 1H), 7.32-7.35 (m, 5H), 7.37-7.44 (m, 5H), 8.19 (br s, 1H). MS (ESI) to/z: 355 [M-H]+.

reactant | 1-Benzhydryl-5-iodo-pyrimidine-2,4-dione | 0.15 mmol, 0.06 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(NC(C(=C1)I)=O)=O | C17H13IN2O2
reactant | toluene ethanol | C1(=CC=CC=C1)C.C(C)O
reactant | sodium carbonate | 0.16 mmol, 0.082 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
catalyst | tetrakis(triphenylphosphine) palladium(0) | 0.015 mmol, 0.017 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 1-benzhydryl-5-phenyl-pyrimidine-2,4-dione | 0.03 g, 62% | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(NC(C(=C1)C1=CC=CC=C1)=O)=O | C23H18N2O2
